US08729105B2
Preparation of (S)-6-(4-chlorophenyl)-N-(pyridin-2-ylmethyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrazine-2-carboxamide
The title compound was synthesized in analogy to Example 1 using (S)-6-(4-chlorophenyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrazine-2-carboxylic acid (example AH) and 2-pyridinemethanamine (CAN 3731-51-9) as starting materials; MS (ESI): 437.1 (M+H)+.

reactant | (S)-6-(4-chlorophenyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrazine-2-carboxylic acid | ClC1=CC=C(C=C1)C1=C(N=CC(=N1)C(=O)O)O[C@H](C(F)(F)F)C | C14H10ClF3N2O3
reactant | 2-pyridinemethanamine | N1=C(C=CC=C1)CN | C6H8N2
product | (S)-6-(4-chlorophenyl)-N-(pyridin-2-ylmethyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrazine-2-carboxamide | ClC1=CC=C(C=C1)C1=C(N=CC(=N1)C(=O)NCC1=NC=CC=C1)O[C@H](C(F)(F)F)C | C20H16ClF3N4O2
